US04260756
6-(2-Thienyl)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 1.0 g. of 3-chloro-6-(2-thienyl)pyridazine and 0.6 g. of formic acid hydrazide in 50 ml. of n-butyl alcohol is heated at the reflux temperature for 18 hours. The volatiles are removed and the residue is partitioned between dilute aqueous sodium hydroxide and methylene chloride. The organic layer is dried over anhydrous sodium sulfate, filtered and evaporated. The residue is recrystallized from methylene chloride:hexane to afford a tan solid. The solid is recrystallized from acetone:hexane to give 0.5 g. of the desired product as cream colored crystals, m.p. 155°-159° C.

reactant | 3-chloro-6-(2-thienyl)pyridazine | ClC=1N=NC(=CC1)C=1SC=CC1 | C8H5ClN2S
reactant | formic acid hydrazide | C(=O)NN | CH4N2O
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 6-(2-Thienyl)-1,2,4-triazolo[4,3-b]pyridazine | S1C(=CC=C1)C=1C=CC=2N(N1)C=NN2 | C9H6N4S
